US07312241B2
Aluminum chloride (2.20 g, 16.5 mmol) was added to a stirred mixture of anisole (1.63 ml, 15.0 mmol) in anhydrous methylene chloride (20 ml) in an ice bath. Then a solution of 3,5-dimethoxybenzoyl chloride (3.01 g, 15.0 mmol) in anhydrous methylene chloride (10 ml) was added. The mixture was allowed to warm up to rt, then refluxed overnight. After cooling down to rt, the mixture was poured to ice water (50 ml), stirred for 20 min., and extracted with methylene chloride (3×50 ml). The combined organic extracts were washed with sat. NaHCO3 (3×50 ml), H2O (2×50 ml), brine (50 ml), dried over MgSO4, filtered and concentrated in vacuo to an oil, which was purified via flash column chromatography (10% EtOAc in hexane) to give (3,5-dimethoxy-phenyl)-(4-methoxy-phenyl)-methanone as a yellow solid (3.11 g, 76%): mp, 90-92° C.; 1HNMR (CDCl3) δ 7.85 (d, J=8.0 Hz, 2H, Ar), 6.96 (d, J=9.0 Hz, 2H, Ar), 6.88 (d, J=2.3 Hz, 2H, Ar), 6.65 (d, J=2.4 Hz, 1H, Ar), 3.89 (s, 3H, OCH3), 3.83 (s, 6H, 2OCH3). The product was carried over to the next step.

reactant | Aluminum chloride | 16.5 mmol, 2.20 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | anisole | 15.0 mmol, 1.63 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | 3,5-dimethoxybenzoyl chloride | 15.0 mmol, 3.01 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | (3,5-dimethoxy-phenyl)-(4-methoxy-phenyl)-methanone | 3.11 g, 76% | COC=1C=C(C=C(C1)OC)C(=O)C1=CC=C(C=C1)OC | C16H16O4
